US09326987B2
2-Methyl-1,3-thiazole-4-carbonyl chloride
To 2-methyl-1,3-thiazole-4-carboxylic acid (1 g) was added thionyl chloride (5 ml). The mixture was heated at 80° C. for 8 h. Thionyl chloride (5 ml) was added and the mixture heated for 2 h at 80° C. Further thionyl chloride (5 ml) was added and the mixture heated for 2 h. The mixture was concentrated in vacuo and azeotroped with toluene to give the title compound, 1.12 g.

reactant | 2-methyl-1,3-thiazole-4-carboxylic acid | 1 g | CC=1SC=C(N1)C(=O)O | C5H5NO2S
reactant | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | Thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-Methyl-1,3-thiazole-4-carbonyl chloride | CC=1SC=C(N1)C(=O)Cl | C5H4ClNOS
